US05767131
4-Ethoxycarbonyl-4-phenylpiperidine
To a stirred solution of H2SO4 (1.62 g, 16.56 mmol) in EtOH (200 mL), 4-phenyl-4-piperidinecarboxylic acid 4-methylbenzenesulfonate (25 g, 66.23 mmol) was added and the mixture was stirred and refluxed for 12 h. Excess ethanol was evaporated at reduced pressure and the residue was poured into a mixture of ice and 6N NaOH. The pH was adjusted to 10-11 by adding more 6N NaOH and extracted with CH2Cl2 (3×100 mL). The combined CH2Cl2 extracts were dried (MgSO4) and the solvent evaporated to leave the desired product as a colorless viscous oil, the 1H-NMR showed it to be pure (14.68 g, 95%) and was used without any further purification.

reactant | H2SO4 | 16.56 mmol, 1.62 g | OS(=O)(=O)O | H2O4S
reactant | 4-phenyl-4-piperidinecarboxylic acid 4-methylbenzenesulfonate | 66.23 mmol, 25 g | CC1=CC=C(C=C1)S(=O)(=O)O.C1(=CC=CC=C1)C1(CCNCC1)C(=O)O
solvent | EtOH | 200 mL | CCO | C2H6O
product | 4-Ethoxycarbonyl-4-phenylpiperidine | C(C)OC(=O)C1(CCNCC1)C1=CC=CC=C1 | C14H19NO2
